US09302989B2
N-(6-{[(2S)-tetrahydrofuran-2-ylmethyl]carbamoyl}pyridazin-3-yl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
The title compound was prepared as described in Example 1C, substituting (2S)-tetrahydrofuran-2-ylmethamine for 3-phenylpropan-1-amine and 6-(2,3-dihydro-1H-pyrrolo[3,4-c]pyridine-2-carboxamido)pyridazine-3-carboxylic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ 10.09 (s, 1H), 8.81 (t, J=6.1 Hz, 1H), 8.62 (s, 1H), 8.51 (d, J=5.0 Hz, 1H), 8.31 (d, J=9.3 Hz, 1H), 8.12 (d, J=9.3 Hz, 1H), 7.44 (d, J=5.1 Hz, 1H), 5.05-4.76 (m, 4H), 4.04 (p, J=6.2 Hz, 1H), 3.85-3.74 (m, 1H), 3.70-3.59 (m, 1H), 3.45-3.31 (m, 2H), 1.99-1.72 (m, 3H), 1.69-1.54 (m, 1H); MS (ESI(+)) m/e 369 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 6-(2,3-dihydro-1H-pyrrolo[3,4-c]pyridine-2-carboxamido)pyridazine-3-carboxylic acid | C1N(CC=2C=NC=CC21)C(=O)NC2=CC=C(N=N2)C(=O)O | C13H11N5O3
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-(6-{[(2S)-tetrahydrofuran-2-ylmethyl]carbamoyl}pyridazin-3-yl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | O1[C@@H](CCC1)CNC(=O)C1=CC=C(N=N1)NC(=O)N1CC=2C=NC=CC2C1 | C18H20N6O3
